US06835745B2
4-Bromo-2-chloroanisole
Starting from 4-bromo-2-chlorophenol (22 g, 110 mmol) in place of 4-nitro-3-trifluoromethylphenol, the title compound (22 g, 93%, m.p. 69-71° C.) was synthesized in essentially the same manner as described above for 4-nitro-3-trifluoromethylanisole in Step 1, Scheme 1.

reactant | 4-bromo-2-chlorophenol | 110 mmol, 22 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | 4-nitro-3-trifluoromethylanisole | [N+](=O)([O-])C1=C(C=C(C=C1)OC)C(F)(F)F | C8H6F3NO3
product | 4-Bromo-2-chloroanisole | 22 g, 93% | BrC1=CC(=C(C=C1)OC)Cl | C7H6BrClO
